US09340538B2
Step C: 3-(morpholin-2-yl)propanoic acid
3-(4-((benzyloxy)carbonyl)morpholin-2-yl)acrylic acid (0.52 g, 1.8 mmol) was reacted with Pd—C (10%, 0.05 g) according to the procedure as described in Example 34, Step C to give the title compound as a white solid (0.2 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | 3-(4-((benzyloxy)carbonyl)morpholin-2-yl)acrylic acid | 1.8 mmol, 0.52 g | C(C1=CC=CC=C1)OC(=O)N1CC(OCC1)C=CC(=O)O | C15H17NO5
catalyst | Pd—C | 0.05 g | [Pd] | Pd
product | 3-(morpholin-2-yl)propanoic acid | 0.2 g, 70% | N1CC(OCC1)CCC(=O)O | C7H13NO3
